US05091558
A solution of 10% aqueous potassium hydroxide (150 mL) was added to a solution of 2-chloro-3-methyl-1,4-naphthoquinone (10.3 g) in refluxing methanol (500 mL). After cooling and acidification with concentrated hydrochloric acid, the precipitated product was collected by filtration to give 2-hydroxy-3-methyl-1,4-naphthoquinone, m.p. 173°-174° C.

reactant | potassium hydroxide | 150 mL | [OH-].[K+]
reactant | 2-chloro-3-methyl-1,4-naphthoquinone | 10.3 g | ClC=1C(C2=CC=CC=C2C(C1C)=O)=O | C11H7ClO2
solvent | methanol | 500 mL | CO | CH4O
product | 2-hydroxy-3-methyl-1,4-naphthoquinone | OC=1C(C2=CC=CC=C2C(C1C)=O)=O | C11H8O3
